Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Percocet / adhesive tape
 
Attending: ___.
 
Chief Complaint:
diarrhea, abd pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ with long history of GI symptoms but recent confirmed 
diagnosis of Crohn's who presents for ongoing symptoms on 
sulfasalazine and planned infliximab initiation. 

Patient has undergone many colonoscopies before at OS___'s without 
ever any confirmed diagnosis of IBD.  She has been on 
sulfasalazine for years without improvement in symptoms.  More 
recently Ms. ___ has had ongoing abdominal pain and 10+ 
bloody BM's per day for several months.  She was seen in GI 
clinic on
___ and felt her symptoms were no longer able to be managed at 
home; sent to ED for admission.

In the ED, initial VS were: 97.7 67 101/59 15 99% RA 

Labs showed:  
WBC 11.6, Hgb 8.6 with MCV 80

Patient received: 
NS @ 150/hr
4mg Zofran
 
Transfer VS were:  97.7 67 101/59 15 99% RA 

On arrival to the floor, patient reports her pain is mostly 
localized to lower abdomen.  Endorses the history stated above.  
Also endorses frequent fevers to ___.  No chest pain, dysuria, 
shortness of breath, cough, or recent sick contacts.
 
REVIEW OF SYSTEMS:  
10 point ROS reviewed and negative except as per HPI  
 
Past Medical History:
Gastric bypass
Anal fistula confirmed by exam under anesthesia with Dr. ___
Chronic diarrhea
Laparoscopic gastric bypass at ___ ___
 
Social History:
___
Family History:
She reports lots of colitis in her family but is unsure of the
details.
 
Physical Exam:
ADMISSION EXAM
==============
VS: 99.2 107/68 77 18 97 Ra  
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM  
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs   
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: soft, TTP in lower abdomen, mostly in LLQ
EXTREMITIES: no cyanosis, clubbing, or edema  
RECTAL: active fistula near anus  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes

DISCHARGE EXAM
==============
VITALS: Reviewed in POE.
GENERAL: NAD, lying comfortably
HEENT: head atraumatic, EOMI. no pale conjunctiva
CV: regular, no m/r/g
RESP: CTAB
GI: +BS; soft, nondistended; with TTP in left lower quadrant
NEURO: no focal deficits 
SKIN: with diffuse hyperpigmented exocoriations on skin 
 
Pertinent Results:
ADMISSION LABS
==============
___ 09:50PM BLOOD WBC-11.8* RBC-3.50* Hgb-8.6* Hct-28.1* 
MCV-80* MCH-24.6* MCHC-30.6* RDW-16.0* RDWSD-46.5* Plt ___
___ 09:50PM BLOOD Neuts-71.0 Lymphs-15.9* Monos-9.9 Eos-2.1 
Baso-0.3 Im ___ AbsNeut-8.37* AbsLymp-1.87 AbsMono-1.16* 
AbsEos-0.25 AbsBaso-0.03
___ 09:50PM BLOOD Glucose-78 UreaN-15 Creat-0.6 Na-141 
K-3.5 Cl-101 HCO3-24 AnGap-16
___ 06:45AM BLOOD Calcium-8.2* Phos-3.3 Mg-1.7

MICRO/OTHER PERTINENT LABS
========================
___ 8:29 pm STOOL     CONSISTENCY: FORMED      Source: 
Stool. 

                            **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Cepheid nucleic 
acid
      amplification assay.. 
           (Reference Range-Negative). 

___ 8:29 pm STOOL     CONSISTENCY: FORMED      Source: 
Stool. 

   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

   OVA + PARASITES (Pending): 

___ 09:50PM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG
___ 06:45AM BLOOD CRP-90.8*
___ 06:15AM BLOOD CRP-69.8*
___ 09:50PM BLOOD HCV Ab-NEG

DISCHARGE LABS
==============
___ 06:15AM BLOOD WBC-7.8 RBC-3.37* Hgb-8.3* Hct-27.9* 
MCV-83 MCH-24.6* MCHC-29.7* RDW-16.0* RDWSD-47.8* Plt ___
___ 06:15AM BLOOD Glucose-70 UreaN-9 Creat-0.5 Na-148* 
K-4.1 Cl-109* HCO3-29 AnGap-10
___ 06:15AM BLOOD Calcium-8.2* Phos-3.4 Mg-1.9

IMAGING
=======
NONE
 
Brief Hospital Course:
___ with recently diagnosed active Crohn's disease throughout 
colon presents with ongoing symptoms and planned initiation of 
infliximab.

#Subacute exacerbation of Crohn's disease: symptoms ongoing for 
months now. Sounds like her symptoms were not controlled with 
sulfasalazine for the past month, with 10+ bloody BMs daily. ESR 
28, CRP elevated at 90.8. Negative quant gold ___, hepBsAg 
negative hepBsAb negative, hepBcAb negative, HCV Ab negative. 
Treated active disease with IV ciprofloxacin, and started 
Remicade 10 mg/Kg x1 dose ___ with success. Repeat CRP 
downtrended to 69.8 from 90.8. We transitioned the IV abx to po 
cipro BID for four days (total ___. Stool 
studies negative for Cdiff and ***. Patient discharged on low 
residue diet. 

#Anemia: chronic, microcytic, likely related to ongoing blood 
loss in stool. Stable H/H at discharge 8.3/27.9, and remained HD 
stable. Held iron tablets while inpatient given concern for 
symptoms, but will restart on discharge. 

#Vit D deficiency: recently diagnosed; likely related to prior 
gastric bypass. Continued on home vit D dose

TRANSITIONAL ISSUES
===================
[]f/u GI after infliximab initiation
[]patient will need HBV vaccine with negative Ab
[]continue cipro 500mg BID for 4 days (___)

Greater than 35 minutes were spent providing and coordinating 
care for this patient on day of discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 50 mg PO DAILY 
2. Ferrous Sulfate 325 mg PO DAILY 
3. Vitamin D ___ UNIT PO 1X/WEEK (MO) 
4. Vitamin D 5000 UNIT PO DAILY 
5. LORazepam 0.5 mg PO QHS:PRN insomnia 
6. SulfaSALAzine ___ 1000 mg PO BID 
7. Cyanocobalamin 250 mcg PO DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 4 Days 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*8 Tablet Refills:*0 
2.  Cyanocobalamin 250 mcg PO DAILY  
3.  Ferrous Sulfate 325 mg PO DAILY  
4.  LORazepam 0.5 mg PO QHS:PRN insomnia  
5.  Sertraline 50 mg PO DAILY  
6.  Vitamin D 5000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
-Crohn's disease
SECONDARY DIAGNOSIS
-Anal fistula
-Anemia
-s/p laparoscopic gastric bypass
Import Discharge Diagnosis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

WHY YOU WERE ADMITTED
- You were having worsening symptoms from your Crohns disease, 
and the decision was made to admit you to the hospital to start 
the medication infliximab

WHAT WE DID FOR YOU
- We started the infliximab medication and monitored your 
symptoms
- We check your stool for any infection

WHAT YOU SHOULD DO WHEN YOU LEAVE
- You should follow up with your GI doctor after starting the 
infliximab
- You should continue taking your ciprofloxacin antibiotic for 
the next 4 days

WHEN SHOULD YOU COME BACK
- If you are experiencing fevers, chills, worsened abdominal 
pain, worsened diarrhea or bloody bowel movements, or any other 
symptoms that concern you

It was a pleasure taking care of you!

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___